US04497813
A solution of 20.0 g of crude 1-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-1-methyl-ethyl]-benzylamino]-3-(4-methane-sulfonylamino-phenoxy)-2-propanol in 250 ml of methanol is hydrogenated, after the addition of 2.5 g of Pd/C catalyst (5%), under normal conditions until debenzylation is completed (DC control), for which an addition of a further 1.0 g of catalyst is required. The catalyst is filtered off; the filtrate is concentrated by evaporation, and the oil remaining behind is dissolved in a small amount of hot isopropanol. On cooling is obtained crystalline 1-[2-(4-carbamoyl-3-hydroxy-phenoxy)-1-methyl-ethylamino]-3-(4-methanesulfonylamino-phenoxy)-2-propanol, m.p. 147°-150° (diastereoisomeric mixture).

reactant | 1-[N-[2-(4-carbamoyl-3-hydroxy-phenoxy)-1-methyl-ethyl]-benzylamino]-3-(4-methane-sulfonylamino-phenoxy)-2-propanol | 20.0 g | C(N)(=O)C1=C(C=C(OCC(C)N(CC(COC2=CC=C(C=C2)NS(=O)(=O)C)O)CC2=CC=CC=C2)C=C1)O | C27H33N3O7S
solvent | methanol | 250 ml | CO | CH4O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | 1-[2-(4-carbamoyl-3-hydroxy-phenoxy)-1-methyl-ethylamino]-3-(4-methanesulfonylamino-phenoxy)-2-propanol | C(N)(=O)C1=C(C=C(OCC(C)NCC(COC2=CC=C(C=C2)NS(=O)(=O)C)O)C=C1)O | C20H27N3O7S
